US07517875B2
After dissolving 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-5-carboxylic acid methyl ester (624 mg, 0.91 mmol) in anhydrous tetrahydrofuran (10 ml) under a nitrogen stream, aluminum lithium hydride (72.4 mg, 1.82 mmol) was added at 0° C., and the mixture was stirred for 2 hours. After then adding a saturated aqueous sodium sulfate solution, extraction was performed with ethyl acetate and then with dichloromethane. Each extract was washed with saturated brine, and then combined and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain [2-[(1-naphthalen-1-ylmethyl-piperidin -4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-5-yl]-methanol. The compound was identified by LC-MS.

reactant | 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazole-5-carboxylic acid methyl ester | 0.91 mmol, 624 mg | COC(=O)C1=CC2=C(N(C(=N2)N(COCC[Si](C)(C)C)CC2CCN(CC2)CC2=CC=CC3=CC=CC=C23)COCC[Si](C)(C)C)C=C1 | C38H56N4O4Si2
reactant | aluminum lithium hydride | 1.82 mmol, 72.4 mg | [H-].[Li+].[Al+3].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [2-[(1-naphthalen-1-ylmethyl-piperidin -4-ylmethyl)-(2-trimethylsilanyl-ethoxymethyl)-amino]-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-5-yl]-methanol | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CN(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)CO)COCC[Si](C)(C)C | C37H56N4O3Si2
